US09085583B2
Step 3: (±)-1-(1-(4-chlorophenyl)ethyl)-1H-indole-3-carboxylic acid
To a mixture of ethyl 1-(1-(4-chlorophenyl)ethyl)-2-methyl-1H-indole-3-carboxylate (210 mg, 0.61 mmol) in MeOH/H2O (6 mL/2 mL) was added KOH (340 mg, 6.1 mmol) at room temperature. The reaction was refluxed overnight. Then the mixture was adjusted to Ph=4 with 1 N HCl and extracted with EtOAc (3×). The combined organic extract were combined and concentrated in vacuo to afford the title compound as a yellow solid (200 mg, yield 105%) which was used without further purification.

reactant | ethyl 1-(1-(4-chlorophenyl)ethyl)-2-methyl-1H-indole-3-carboxylate | 0.61 mmol, 210 mg | ClC1=CC=C(C=C1)C(C)N1C(=C(C2=CC=CC=C12)C(=O)OCC)C | C20H20ClNO2
reactant | KOH | 6.1 mmol, 340 mg | [OH-].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH H2O | 6 mL | CO.O
product | (±)-1-(1-(4-chlorophenyl)ethyl)-1H-indole-3-carboxylic acid | 200 mg, yield 105% | ClC1=CC=C(C=C1)C(C)N1C=C(C2=CC=CC=C12)C(=O)O | C17H14ClNO2
